US07947761B2
N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride (19 g) was mixed with 40 mL N,N-dimethylformamide and 18 g of diketene followed by slow addition of 3 mL of triethylamine. The mixture was stirred at 80-85° C. for 30 minutes and then poured into 300 mL of water. The aqueous solution was extracted with chloroform (2×200 mL) and the solvent was removed by rotary evaporation to yield 21.9 g (96.5%) of N-[5-(2-acetylaminoethyl)-2-methoxyphenyl]-3-oxo-butyramide as a light yellow oil. 1HNMR (DMSO-d6) spectrum was consistent with the desired product.

reactant | N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride | 19 g | Cl.NC=1C=C(C=CC1OC)CCNC(C)=O
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | diketene | 18 g | C=C1CC(=O)O1 | C4H4O2
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | water | 300 mL | O | H2O
product | N-[5-(2-acetylaminoethyl)-2-methoxyphenyl]-3-oxo-butyramide | 21.9 g, 96.5% | C(C)(=O)NCCC=1C=CC(=C(C1)NC(CC(C)=O)=O)OC | C15H20N2O4
